US04876263
A mixed solution of 2-nitromethylene-3-(2-chloro-5-pyridylmethyl) imidazolidine (12.7 g), propiolic acid methyl ester (4.2 g) and methanol (100 ml) was refluxed under heating for about 20 hours. Subsequently methanol was distilled off under reduced pressure, and the residue was refined by a silica-gel column chromatography to give the desired 1,2,3,5-tetrahydro-1-(2-chloro-5-pyridylmethyl)-8-nitroimidazo[1,2-a] pyridin -5-one (8 g).

reactant | 2-nitromethylene-3-(2-chloro-5-pyridylmethyl) imidazolidine | 12.7 g | [N+](=O)([O-])C=C1NCCN1CC=1C=CC(=NC1)Cl | C10H11ClN4O2
reactant | propiolic acid methyl ester | 4.2 g | COC(C#C)=O | C4H4O2
solvent | methanol | 100 ml | CO | CH4O
product | 1,2,3,5-tetrahydro-1-(2-chloro-5-pyridylmethyl)-8-nitroimidazo[1,2-a] pyridin -5-one | 8 g | ClC1=NC=C(C=C1)CN1CCN2C1=C(C=CC2=O)[N+](=O)[O-] | C13H11ClN4O3
